US07642264B2
2-(3-Bromo-phenyl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from 2-bromo-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyridine (example A.19) (3.0 g, 8 mmol) and commercially available 3-bromo-benzeneboronic acid (1.954 g, 10 mmol) according to the general procedure IVb. Obtained as an orange oil (3.28 g, 91%). MS (ISP) 446.0 [(M+H)+] and 448.0 [(M+2+H)+].

reactant | 2-bromo-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyridine | 8 mmol, 3.0 g | BrC1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C13H6BrF6N
reactant | 3-bromo-benzeneboronic acid | 10 mmol, 1.954 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C19H10BrF6N
